US09446034B2
To a 50 mL tube was added 2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile (738 mg, 2.80 mmol), 1-ethyl-3-methyl-1H-pyrazol-5-amine (350 mg, 2.80 mmol), BINAP (696 mg, 1.118 mmol), cesium carbonate (2733 mg, 8.39 mmol) and palladium(II) acetate (62.8 mg, 0.280 mmol) in 1,4-dioxane (15 mL). The reaction mixture was heated to 120° C. for 18 hr. Solid was filtered off and discarded and the solution was concentrated. Product was then dissolved in 1 M HCl (1 mL) and extracted with EtOAc. The organic layer was discarded. The water layer was neutralized with 1 M NaOH (to pH 8) and extracted with EtoAc. The organic layer was separated, washed with brine, dried over MgSO4, filtered and evaporated. The solid was the dissolved in 20 mL of EtOAc and 20 mL of water and 1 mL of acetic acid were added. The organic layer was separated, washed with brine, dried over MgSO4, filtered and evaporated. 2-({5-Chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzonitrile (450 mg, 1.275 mmol, 45.6% yield) was isolated as orange foam. This product was used in the next step without further purification. LCMS (M+H)+=353.1; 1H NMR (400 MHz, DMSO-d6) ppm 1.19 (t, J=7.20 Hz, 3 H) 1.91 (s, 3 H) 3.84 (q, J=7.24 Hz, 2 H) 5.92 (s, 1 H) 6.03 (s, 1 H) 7.41 (td, J=7.64, 0.88 Hz, 1 H) 7.48 (d, J=8.08 Hz, 1 H) 7.76 (td, J=7.83, 1.52 Hz, 1 H) 7.91 (dd, J=7.83, 1.52 Hz, 1 H) 7.96 (s, 1 H) 8.47 (d, J=7.07 Hz, 1 H) 11.98 (br. s., 1 H)

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile | 2.80 mmol, 738 mg | ClC1=NC=C(C(=C1)NC1=C(C#N)C=CC=C1)Cl | C12H7Cl2N3
reactant | 1-ethyl-3-methyl-1H-pyrazol-5-amine | 2.80 mmol, 350 mg | C(C)N1N=C(C=C1N)C | C6H11N3
reactant | BINAP | 1.118 mmol, 696 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 8.39 mmol, 2733 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.280 mmol, 62.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-({5-Chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzonitrile | 1.275 mmol, 450 mg, 45.6% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1CC)C)NC1=C(C#N)C=CC=C1 | C18H17ClN6
